US06005000
A solution of 10.0 g (98 mmol) of α-hydroxy-γ-butyrolactone in 100 mL of anhydrous THF under argon was cooled to 0-5° C. with magnetic stirring. Addition of 14 mL (110 mmol) of trimethylsilyl chloride and 16 mL (115 mmol) of triethylamine immediately produced a white precipitate. The suspension was warmed to room temperature and stirred for 4 hours. The suspension was poured into a separatory funnel containing 100 mL of H2O and 500 mL of ether. The organic layer was washed with 50 mL of H2O, 50 mL of brine, dried (MgSO4) and concentrated. Purification (Kugelrohr distillation) provided 14.7 g (90% yield) of α-trimethylsilyloxy-γ-butyrolactone bp 80-100° C. (8 mm Hg).

reactant | α-hydroxy-γ-butyrolactone | 98 mmol, 10.0 g | OC1C(=O)OCC1 | C4H6O3
reactant | trimethylsilyl chloride | 110 mmol, 14 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 115 mmol, 16 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | 100 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 500 mL | CCOCC | C4H10O
product | α-trimethylsilyloxy-γ-butyrolactone | 14.7 g, 90% yield | C[Si](OC1C(=O)OCC1)(C)C | C7H14O3Si
